US08022248B2
(i) 4-Chloro-2-(2-chloro-4-nitrophenoxy)aniline
A mixture of 2-amino-5-chlorophenol (11.0 g), 2-chloro-1-fluoro-4-nitrobenzene (1.5 g) and potassium carbonate (2.8 g) in dry DMF (20 ml) was stirred room temperature for 1 h then heated at 60° C. for 2 h. The mixture was partitioned between water/ethyl acetate, the organics separated, washed with water, dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 10% ethylacetate/isohexane, yield 1.96 g.

reactant | 2-amino-5-chlorophenol | 11.0 g | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | 2-chloro-1-fluoro-4-nitrobenzene | 1.5 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(2-chloro-4-nitrophenoxy)aniline | ClC1=CC(=C(N)C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C12H8Cl2N2O3
